US06054448
To a suspension of sodium hydride (0.27 g, 6.63 mmol, 60% oil dispersion) in dry tetrahydrofuran (10 ml), was added dropwise with vigorous stirring a solution of 3-methoxycarbonylcyclobutanone (0.707 g, 5.52 mmol) and methyl isocyanoacetate (0.6 g, 6.07 mmol) in dry tetrahydrofuran (20 ml) over 5 minutes. The reaction mixture was stirred at room temperature for 2 hours, cooled to 0° C. and 10% aqueous acetic acid (20 ml) added dropwise. The organic solvent was removed in vacuo and the resulting solution extracted with dichloromethane (3×20 ml). The combined extracts were washed with water, dried over anhydrous magnesium sulphate and evaporated to give an oil. The crude product was purified by flash chromatography, eluting with ethyl acetate-hexane (1:1, 3:2), to give methyl N-formyl-α-(3-methoxycarbonylcyclobutylidene)glycinate as a colourless oil.

reactant | sodium hydride | 6.63 mmol, 0.27 g | [H-].[Na+]
reactant | 3-methoxycarbonylcyclobutanone | 5.52 mmol, 0.707 g | COC(=O)C1CC(C1)=O | C6H8O3
reactant | methyl isocyanoacetate | 6.07 mmol, 0.6 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | methyl N-formyl-α-(3-methoxycarbonylcyclobutylidene)glycinate | C(=O)NC(C(=O)OC)=C1CC(C1)C(=O)OC | C10H13NO5
